US08957203B2
(E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acrylic acid (4.38 g, 13.26 mmol), (PhO)2PON3 (2.71 mL, 12.60 mmol), and Et3N (3.70 mL, 26.5 mmol) were dissolved in benzene and stirred for 16 h. The solution was concentrated under vacuum and the residue was purified by silica gel chromatography using 20% EtOAc/Hexanes to give (E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acryloyl azide (2.3 g, 49% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.80 (s, 1H), 7.16-7.11 (m, 2H), 6.97-6.92 (m, 2H), 6.84-6.78 (m, 1H), 6.63-6.53 (m, 2H), 4.63-4.54 (m, 1H), 3.49 (s, 3H), 1.38-1.35 (m, 6H).

reactant | (E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acrylic acid | 13.26 mmol, 4.38 g | FC1=C(C=C(C=C1)/C=C(/C(=O)O)\C1=CC=C(C=C1)OC(C)C)OC | C19H19FO4
reactant | (PhO)2PON3 | 12.60 mmol, 2.71 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | Et3N | 26.5 mmol, 3.70 mL | CCN(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E)-3-(4-fluoro-3-methoxyphenyl)-2-(4-isopropoxyphenyl)acryloyl azide | 2.3 g, 49% yield | FC1=C(C=C(C=C1)/C=C(/C(=O)N=[N+]=[N-])\C1=CC=C(C=C1)OC(C)C)OC | C19H18FN3O3
